US08486980B2
[step 1] To a solution (100 mL) of 5,11-dihydrobenzooxepino[3,4-b]pyridine (Synthesis, 1997, 1, 113-116, 5.00 g, 23.7 mmol) in chloroform was added m-chloroperbenzoic acid (4.89 g, 28.4 mmol), and the mixture was stirred at room temperature overnight. To the reaction mixture was added sodium hydrogen carbonate, and the mixture was extracted 3 times with chloroform. The combined organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in chloroform (10 mL), phosphorus oxychloride (35 mL) was added and the mixture was stirred with heating at 90° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, the obtained black oil was dissolved in ethyl acetate, and the solution was added dropwise to aqueous sodium hydrogen carbonate solution under ice-cooling. The mixture was extracted 3 times with ethyl acetate, and the combined organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1) to give 2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-one (3.50 g, 59%). [step 2] N-Lithium diisopropylamide (2.0 mol/L heptane/THF/ethylbenzene solution, 20 mL, 39.8 mmol) was diluted with THF (25 mL), propionitrile (1.4 mL, 19.9 mmol) was added dropwise over 15 min with stirring at 0° C. After stirring at room temperature for 1 hr, diethyl chlorophosphate (2.9 mL, 19.9 mmol) was added dropwise at 0° C. After stirring at room temperature for 2 hr, a solution (20 mL) of 2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-one (1.95 g, 7.96 mmol) in DMF was added, and the mixture was stirred at room temperature for 1.5 hr. To the mixture were added ethyl acetate and water, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to give (E)-2-(2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile and (Z)-2-(2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile (1.79 g, 80%). [step 3] Using (E)-2-(2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile and (Z)-2-(2-chloro-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile (0.890 g, 3.16 mmol) obtained in Reference Example B10, step 2, instead of (E)-2-(3-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)cyclopropylacetonitrile and (Z)-2-(3-bromo-6,11-dihydrodibenzo[b,e]oxepin-11-ylidene)cyclopropylacetonitrile, and in the same manner as in Reference Example B9, step 2, propyl(E)-5-(1-cyanoethylidene)-5,11-dihydrobenzooxepino[3,4-b]pyridine-2-carboxylate (0.374 g, 35%) and propyl(Z)-5-(1-cyanoethylidene)-5,11-dihydrobenzooxepino[3,4-b]pyridine-2-carboxylate (0.203 g, 20%) were obtained. [step 4] Using propyl(E)-5-(1-cyanoethylidene)-5,11-dihydrobenzooxepino[3,4-b]pyridine-2-carboxylate (0.370 g, 1.11 mmol) obtained in Reference Example B10, step 3 instead of propyl(E)-11-cyanocyclopropylmethylene-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate and propyl(Z)-11-cyanocyclopropylmethylene-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate, and in the same manner as in Reference Example B9, step 3, (E)-2-(2-hydroxymethyl-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile (0.191 g, 62%) was obtained.

reactant | propyl(E)-5-(1-cyanoethylidene)-5,11-dihydrobenzooxepino[3,4-b]pyridine-2-carboxylate | 1.11 mmol, 0.370 g | C(#N)\C(\C)=C/1\C2=C(OCC3=NC(=CC=C31)C(=O)OCCC)C=CC=C2 | C20H18N2O3
reactant | propyl(E)-11-cyanocyclopropylmethylene-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate | C(#N)C1C2=C(O/C(/C3=C1C=CC(=C3)C(=O)OCCC)=C/C3CC3)C=CC=C2 | C23H21NO3
reactant | propyl(Z)-11-cyanocyclopropylmethylene-6,11-dihydrodibenzo[b,e]oxepine-8-carboxylate | C(#N)C1C2=C(O\C(\C3=C1C=CC(=C3)C(=O)OCCC)=C/C3CC3)C=CC=C2 | C23H21NO3
product | (E)-2-(2-hydroxymethyl-5,11-dihydrobenzooxepino[3,4-b]pyridin-5-ylidene)propiononitrile | 0.191 g, 62% | OCC1=CC=C/2C(=N1)COC1=C(\C2=C(\C#N)/C)C=CC=C1 | C17H14N2O2
